US04136256
Preparation of p-Hexadecylamino-N-Sulfanilylbenzamide
A solution of p-hexadecylamino-N-(p-nitrophenylsulfonyl)benzamide in 150 ml. of tetrahydrofuran is hydrogenated in the presence of 0.9 g. of 10% palladium on carbon catalyst at approximately 50 lbs. for 22 hours. The mixture is filtered through a bed of diatomaceous earth and the filtrate is evaporated to an incompletely reduced, off-white solid as indicated by thin layer chromatography on silica gel using chloroform:ethyl acetate:acetic acid 95:4:1 as solvent. The product is hydrogenated again in 80 ml. of dimethylformamide plus 1.0 g. of 10% palladium on carbon catalyst for 18 hours at 50 lbs. pressure. The mixture is filtered through a bed of diatomaceous earth and the filtrate is diluted with 500 ml. of eater to give a suspension which is coagulated by the addition of 50 g. of sodium chloride. The mixture is filtered, the product is washed thoroughly with water and dried in a dessicator to give 8.35 g. of product which is a single spot of TLC. The product is crystallized twice from ethyl acetate and dried in an Abderhalden pistol at 65° C. to provide 6.45 g. of pale tan crystals, melting point 193°-196° C.

reactant | p-hexadecylamino-N-(p-nitrophenylsulfonyl)benzamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C29H43N3O5S
reactant | sodium chloride | [Cl-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Hexadecylamino-N-Sulfanilylbenzamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(C2=CC=C(C=C2)N)=O)C=C1 | C29H45N3O3S
